US05273975
A mixture of 5-methoxy-4-methyl-1H-benzimidazole (2.5 g, 15.4 mmol) and di-t-butyl dicarbonate (4.2 g, 19.3 mmol) in dioxane (70 mL) was heated at 100° C. for 1 hour. After evaporation the solvent, the residue was chromatographed on silica gel to give 3.75 g (93%) of t-butyl 5-methoxy-4-methyl-1H-benzimidazole-1-carboxylate.

reactant | 5-methoxy-4-methyl-1H-benzimidazole | 15.4 mmol, 2.5 g | COC1=C(C2=C(NC=N2)C=C1)C | C9H10N2O
reactant | di-t-butyl dicarbonate | 19.3 mmol, 4.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | t-butyl 5-methoxy-4-methyl-1H-benzimidazole-1-carboxylate | 3.75 g, 93% | COC1=C(C2=C(N(C=N2)C(=O)OC(C)(C)C)C=C1)C | C14H18N2O3
